US07608639B2
3-{4-[3-(4′-Methanesulfonyl-5-trifluoromethyl-biphenyl-2-yloxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester with 4-(methylsulfonyl)phenyl boronic acid as in Example 38 to afford 0.062 g (48%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C31H27O6SF3 584, found 585 (M+1, 100%).

reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C26H24BrF3O4
reactant | 4-(methylsulfonyl)phenyl boronic acid | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
product | 3-{4-[3-(4′-Methanesulfonyl-5-trifluoromethyl-biphenyl-2-yloxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C(F)(F)F)OC=1C=C(OC2=CC(=C(C=C2)CCC(=O)O)C)C=C(C1)C | C31H27F3O6S
